US05610141
c) (S,S)-2,7-Diamino-4-benzyloxycarbonyl-4-azaoctanedioic acid
(S,S)-2,7-Bis(tert-butyloxycarbonylamino)-4-benzyloxycarbonyl-4-azaoctanedioic acid (0.29 g, 0.37 mmol) was dissolved in TFA (10 ml), the solution stirred at ambient temperature for 2 hours and the TFA distilled off to yield the title compound which was used in the subsequent step without further purification.

reactant | (S,S)-2,7-Bis(tert-butyloxycarbonylamino)-4-benzyloxycarbonyl-4-azaoctanedioic acid | 0.37 mmol, 0.29 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CN(CC[C@@H](C(=O)O)NC(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C25H37N3O10
solvent | TFA | 10 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | (S,S)-2,7-Diamino-4-benzyloxycarbonyl-4-azaoctanedioic acid | N[C@H](C(=O)O)CN(CC[C@@H](C(=O)O)N)C(=O)OCC1=CC=CC=C1 | C15H21N3O6
